US05017724
5.5 Milliliters of thionyl chloride was added dropwise to a chloroform solution containing 16.1 g of 5,7-dimethyl-8-methoxy-9-hydroxy-1,2,3,4,4a,9a-hexahydrofluorene under ice-cooling. After completion of the addition, reaction was effected at the same temperature for 2 hours. The reaction mixture was washed successively with water twice, saturated aqueous sodium chloride solution and saturated sodium bicarbonate solution and dried with magnesium sulfate. Then, the solvent was distilled off and the residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:20) to obtain 13.26 g of 5,7-dimethyl-8-methoxy-2,3,4,4a-tetrahydro-1H-fluorene.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 5,7-dimethyl-8-methoxy-9-hydroxy-1,2,3,4,4a,9a-hexahydrofluorene | 16.1 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)OC)O | C16H22O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5,7-dimethyl-8-methoxy-2,3,4,4a-tetrahydro-1H-fluorene | 13.26 g | CC1=C2C3CCCCC3=CC2=C(C(=C1)C)OC | C16H20O
